### PR TITLE
refactor: separate out relabelling

### PR DESCRIPTION
**Pull request by LeoDog896**
https://github.com/leanprover-community/mathlib4/pull/7162

Co-Authored-By: Yuyang Zhao 赵雨扬 <zhao.yu-yang@foxmail.com>

### CODE REVIEW

File: CombinatorialGames/Game/Relabelling.lean [hunk 1]
```diff
@@ -0,0 +1,330 @@
...
+noncomputable section
+
+open Function PGame
+
+universe u
+
+namespace PGame
+
+/-! ### Relabellings -/
+
```
Comment (vihdzp) [inline CombinatorialGames/Game/Relabelling.lean:23]: nit: I think it's preferred style to only leave one space after each heading.

File: CombinatorialGames/Game/Relabelling.lean [hunk 2]
```diff
@@ -0,0 +1,330 @@
...
+/-- `x * 0` has exactly the same moves as `0`. -/
+def mulZeroRelabelling (x : PGame) : x * 0 ≡r 0 :=
+  Relabelling.isEmpty _
+
+/-- `0 * x` has exactly the same moves as `0`. -/
+def zeroMulRelabelling (x : PGame) : 0 * x ≡r 0 :=
+  Relabelling.isEmpty _
+
+/-- `-x * y` and `-(x * y)` have the same moves. -/
+def negMulRelabelling (x y : PGame.{u}) : -x * y ≡r -(x * y) :=
```
Comment (vihdzp) [inline CombinatorialGames/Game/Relabelling.lean:253]: I slightly golfed this def in the PR adressing porting notes, you could copy it over (even though it really doesn't matter much).

File: CombinatorialGames/Game/Relabelling.lean [hunk 3]
```diff
@@ -0,0 +1,330 @@
...
+        change -(mk xl xr xL xR * _) ≡r _
+        exact (negMulRelabelling _ _).symm
+  termination_by (x, y)
+
+/-- `x * -y` and `-(x * y)` have the same moves. -/
+def mulNegRelabelling (x y : PGame) : x * -y ≡r -(x * y) :=
+  (mulCommRelabelling x _).trans <| (negMulRelabelling _ x).trans (mulCommRelabelling y x).negCongr
+
+/-- `x * 1` has the same moves as `x`. -/
+def mulOneRelabelling : ∀ x : PGame.{u}, x * 1 ≡r x
```
Comment (vihdzp) [inline CombinatorialGames/Game/Relabelling.lean:271]: Same here.

File: CombinatorialGames/Game/Relabelling.lean [hunk 4]
```diff
@@ -0,0 +1,330 @@
...
+      rw [sub_zero_eq_add_zero]
+      exact (addZeroRelabelling _).trans <|
+        (((mulOneRelabelling _).addCongr (mulZeroRelabelling _)).trans <| addZeroRelabelling _) }
+
+/-- `1 * x` has the same moves as `x`. -/
+def oneMulRelabelling (x : PGame) : 1 * x ≡r x :=
+  (mulCommRelabelling 1 x).trans <| mulOneRelabelling x
+
+/-- `inv' 0` has exactly the same moves as `1`. -/
+def inv'Zero : inv' 0 ≡r 1 := by
```
Comment (vihdzp) [inline CombinatorialGames/Game/Relabelling.lean:288]: Same here.

File: CombinatorialGames/Game/Relabelling.lean [hunk 5]
```diff
@@ -0,0 +1,330 @@
...
+  refine ⟨?_, ?_, fun i => ?_, IsEmpty.elim ?_⟩
+  · apply Equiv.equivPUnit (InvTy _ _ _)
+  · apply Equiv.equivPEmpty (InvTy _ _ _)
+  · -- Porting note: had to add `rfl`, because `simp` only uses the built-in `rfl`.
+    simp; rfl
+  · dsimp
+    infer_instance
+
+/-- `inv' 1` has exactly the same moves as `1`. -/
+def inv'One : inv' 1 ≡r (1 : PGame.{u}) := by
```
Comment (vihdzp) [inline CombinatorialGames/Game/Relabelling.lean:299]: Same here.

File: CombinatorialGames/Game/Relabelling.lean [hunk 6]
```diff
@@ -0,0 +1,330 @@
...
+  change Relabelling (mk _ _ _ _) 1
```
Comment (vihdzp) [inline CombinatorialGames/Game/Relabelling.lean:300]: Something I missed
```suggestion
  change (mk _ _ _ _) ≡r 1
```

File: CombinatorialGames/Game/Basic.lean [hunk 7]
```diff
@@ -797,18 +740,14 @@ theorem zero_lf_inv' : ∀ x : PGame, 0 ⧏ inv' x
...
-def inv'Zero : inv' 0 ≡r 1 := by
-  change mk _ _ _ _ ≡r 1
-  refine ⟨?_, ?_, fun i => ?_, IsEmpty.elim ?_⟩
-  · apply Equiv.equivPUnit (InvTy _ _ _)
-  · apply Equiv.equivPEmpty (InvTy _ _ _)
-  · simp
-    rfl
-  · dsimp
-    infer_instance
+def inv'zero : inv' 0 ≡ 1 := by
```
Comment (vihdzp) [inline CombinatorialGames/Game/Basic.lean]: Identical is prop-valued, right? This should be
```suggestion
theorem inv'_zero : inv' 0 ≡ 1 := by
```

**Comment by LeoDog896** [comment]
Note: we could just drop the Relabelling file in this PR.

File: CombinatorialGames/Game/Nim.lean [hunk 8]
```diff
@@ -111,11 +111,11 @@ instance isEmpty_nim_zero_rightMoves : IsEmpty (nim 0).RightMoves := by
   exact isEmpty_toType_zero
 
 /-- `nim 0` has exactly the same moves as `0`. -/
-def nimZeroRelabelling : nim 0 ≡r 0 :=
-  Relabelling.isEmpty _
+lemma nim_zero : nim 0 ≡ 0 :=
```
Comment (vihdzp) [inline CombinatorialGames/Game/Nim.lean:115]: (Maybe we should be consistent with lemma vs. theorem? Doesn't really matter)

File: CombinatorialGames/Game/Nim.lean [hunk 9]
```diff
@@ -174,7 +173,7 @@ theorem neg_nim (o : Ordinal) : -nim o = nim o := by
 instance impartial_nim (o : Ordinal) : Impartial (nim o) := by
   induction' o using Ordinal.induction with o IH
   rw [impartial_def, neg_nim]
-  refine ⟨.rfl, fun i => ?_, fun i => ?_⟩ <;> simpa using IH _ (typein_lt_self _)
+  refine ⟨refl _, fun i => ?_, fun i => ?_⟩ <;> simpa using IH _ (typein_lt_self _)
```
Comment (vihdzp) [inline CombinatorialGames/Game/Nim.lean]: What happened here?

File: CombinatorialGames/Game/Ordinal.lean [hunk 10]
```diff
@@ -76,11 +76,11 @@ theorem toPGame_moveLeft {o : Ordinal} (i) :
     o.toPGame.moveLeft (toLeftMovesToPGame i) = i.val.toPGame := by simp
 
 /-- `0.toPGame` has the same moves as `0`. -/
-noncomputable def zeroToPGameRelabelling : toPGame 0 ≡r 0 :=
-  Relabelling.isEmpty _
+lemma zero_toPGame : toPGame 0 ≡ 0 :=
```
Comment (vihdzp) [inline CombinatorialGames/Game/Ordinal.lean]:
```suggestion
lemma toPGame_zero : toPGame 0 ≡ 0 :=
```

File: CombinatorialGames/Game/Ordinal.lean [hunk 11]
```diff
@@ -76,11 +76,11 @@ theorem toPGame_moveLeft {o : Ordinal} (i) :
...
+  identical_zero _
 
 theorem toPGame_zero : toPGame 0 ≈ 0 :=
```
Comment (vihdzp) [inline CombinatorialGames/Game/Ordinal.lean]:
```suggestion
theorem toPGame_zero_equiv : toPGame 0 ≈ 0 :=
```

File: CombinatorialGames/Game/Ordinal.lean [hunk 12]
```diff
@@ -98,12 +98,13 @@ theorem to_leftMoves_one_toPGame_symm (i) :
 theorem one_toPGame_moveLeft (x) : (toPGame 1).moveLeft x = toPGame 0 := by simp
 
 /-- `1.toPGame` has the same moves as `1`. -/
-noncomputable def oneToPGameRelabelling : toPGame 1 ≡r 1 :=
-  ⟨Equiv.ofUnique _ _, Equiv.equivOfIsEmpty _ _, fun i => by
-    simpa using zeroToPGameRelabelling, isEmptyElim⟩
+lemma one_toPGame : toPGame 1 ≡ (1 : PGame) := by
```
Comment (vihdzp) [inline CombinatorialGames/Game/Ordinal.lean]:
```suggestion
lemma toPGame_one : toPGame 1 ≡ 1 := by
```

File: CombinatorialGames/Game/Ordinal.lean [hunk 13]
```diff
@@ -98,12 +98,13 @@ theorem to_leftMoves_one_toPGame_symm (i) :
...
+  refine Identical.ext (fun z ↦ ?_) (fun z ↦ ?_)
+  · simpa [memₗ_def, Unique.exists_iff] using zero_toPGame.congr_right
+  · simp [memᵣ_def]
 
 theorem toPGame_one : toPGame 1 ≈ 1 :=
```
Comment (vihdzp) [inline CombinatorialGames/Game/Ordinal.lean]:
```suggestion
theorem toPGame_one_equiv : toPGame 1 ≈ 1 :=
```

File: CombinatorialGames/Game/PGame.lean [hunk 14]
```diff
@@ -986,147 +995,22 @@ theorem lt_or_equiv_or_gf (x y : PGame) : x < y ∨ (x ≈ y) ∨ y ⧏ x := by
...
-    (i : x.LeftMoves) : moveLeft (relabel el er) (el.symm i) = x.moveLeft i := by simp
-
-@[simp]
-theorem relabel_moveRight' {x : PGame} {xl' xr'} (el : xl' ≃ x.LeftMoves) (er : xr' ≃ x.RightMoves)
-    (j : xr') : moveRight (relabel el er) j = x.moveRight (er j) :=
-  rfl
-
-theorem relabel_moveRight {x : PGame} {xl' xr'} (el : xl' ≃ x.LeftMoves) (er : xr' ≃ x.RightMoves)
-    (j : x.RightMoves) : moveRight (relabel el er) (er.symm j) = x.moveRight j := by simp
+theorem Equiv.of_exists {x y : PGame}
```
Comment (vihdzp) [inline CombinatorialGames/Game/PGame.lean]:
```suggestion
theorem equiv_of_exists {x y : PGame}
```

File: CombinatorialGames/Game/PGame.lean [hunk 15]
```diff
@@ -986,147 +995,22 @@ theorem lt_or_equiv_or_gf (x y : PGame) : x < y ∨ (x ≈ y) ∨ y ⧏ x := by
...
+  · obtain ⟨j, hj⟩ := hl₂ i
+    exact Or.inl ⟨j, hj.ge⟩
+  · obtain ⟨j, hj⟩ := hr₁ i
+    exact Or.inr ⟨j, hj.ge⟩
 
-/-- The game obtained by relabelling the next moves is a relabelling of the original game. -/
-def relabelRelabelling {x : PGame} {xl' xr'} (el : xl' ≃ x.LeftMoves) (er : xr' ≃ x.RightMoves) :
-    x ≡r relabel el er :=
-  Relabelling.mk' el er (fun i => by simp; rfl) (fun j => by simp; rfl)
+theorem Equiv.isEmpty (x : PGame) [IsEmpty x.LeftMoves] [IsEmpty x.RightMoves] : x ≈ 0 := by
```
Comment (vihdzp) [inline CombinatorialGames/Game/PGame.lean]:
```suggestion
theorem equiv_zero_of_isEmpty (x : PGame) [IsEmpty x.LeftMoves] [IsEmpty x.RightMoves] : x ≈ 0 := by
```

File: CombinatorialGames/Game/PGame.lean [hunk 16]
```diff
@@ -1609,6 +1475,9 @@ lemma identical_zero_iff : ∀ (x : PGame),
 lemma identical_zero (x : PGame) [IsEmpty x.LeftMoves] [IsEmpty x.RightMoves] : x ≡ 0 :=
   x.identical_zero_iff.mpr ⟨by infer_instance, by infer_instance⟩
 
+theorem equiv_zero (x : PGame) [IsEmpty x.LeftMoves] [IsEmpty x.RightMoves] : x ≈ 0 :=
```
Comment (vihdzp) [inline CombinatorialGames/Game/PGame.lean]: Isn't this a duplicate?

File: CombinatorialGames/Game/PGame.lean [hunk 17]
```diff
@@ -1956,4 +1774,4 @@ theorem insertRight_insertLeft {x x' x'' : PGame} :
 
 end PGame
 
-set_option linter.style.longFile 2100
+set_option linter.style.longFile 1900
```
Comment (vihdzp) [inline CombinatorialGames/Game/PGame.lean:1759]: (I'm glad we're getting the length of this file down!)

File: CombinatorialGames/Game/Relabelling.lean [hunk 18]
```diff
@@ -0,0 +1,330 @@
...
+
+/-!
+# Relabelling
+
+`PGame.Relabelling` is an equivalence relation that focuses on the type-theoretic
+nature of games as defined in Lean. This isn't used in the literature, and is thus
+scheduled for deprecation.
+-/
+
+noncomputable section
```
Comment (vihdzp) [inline CombinatorialGames/Game/Relabelling.lean]: Is this necessary?

**Review by vihdzp — CHANGES_REQUESTED** [review]

File: CombinatorialGames/Game/Ordinal.lean (hunk 10 above)
Comment (vihdzp) [reply CombinatorialGames/Game/Ordinal.lean]: I should note it's a bit unorthodox to name a theorem like this (it'd be more usual to name it `toPGame_zero_identical`) but since identity is "basically" equality then I don't mind this convention.

File: CombinatorialGames/Game/PGame.lean [hunk 19]
```diff
@@ -1280,12 +1150,7 @@ lemma memᵣ_neg_iff : ∀ {x y : PGame},
   | mk _ _ _ _, mk _ _ _ _ =>
     ⟨fun ⟨_i, hi⟩ ↦ ⟨_, ⟨_, refl _⟩, hi⟩, fun ⟨_, ⟨i, hi⟩, h⟩ ↦ ⟨i, h.trans hi.neg⟩⟩
 
-/-- If `x` has the same moves as `y`, then `-x` has the same moves as `-y`. -/
-def Relabelling.negCongr : ∀ {x y : PGame}, x ≡r y → -x ≡r -y
-  | ⟨_, _, _, _⟩, ⟨_, _, _, _⟩, ⟨L, R, hL, hR⟩ =>
-    ⟨R, L, fun j ↦ (hR j).negCongr, fun i ↦ (hL i).negCongr⟩
-
-private theorem neg_le_lf_neg_iff : ∀ {x y : PGame}, (-y ≤ -x ↔ x ≤ y) ∧ (-y ⧏ -x ↔ x ⧏ y)
+private theorem neg_le_lf_neg_iff : ∀ {x y : PGame.{u}}, (-y ≤ -x ↔ x ≤ y) ∧ (-y ⧏ -x ↔ x ⧏ y)
```
Comment (vihdzp) [inline CombinatorialGames/Game/PGame.lean]: Is the explicit universe necessary?
```suggestion
private theorem neg_le_lf_neg_iff : ∀ {x y : PGame}, (-y ≤ -x ↔ x ≤ y) ∧ (-y ⧏ -x ↔ x ⧏ y)
```

File: CombinatorialGames/Game/PGame.lean [hunk 20]
```diff
@@ -1580,6 +1424,14 @@ protected lemma add_zero : ∀ (x : PGame), x + 0 ≡ x
 protected lemma zero_add (x : PGame) : 0 + x ≡ x :=
   (PGame.add_comm _ _).trans x.add_zero
 
+/-- `x + 0` is equivalent to `x`. -/
+theorem add_zero_equiv (x : PGame.{u}) : x + 0 ≈ x :=
```
Comment (vihdzp) [inline CombinatorialGames/Game/PGame.lean]: Same here.

File: CombinatorialGames/Surreal/Basic.lean [hunk 21]
```diff
@@ -93,16 +93,20 @@ theorem numeric_rec {C : PGame → Prop}
   | ⟨_, _, _, _⟩, ⟨h, hl, hr⟩ =>
     H _ _ _ _ h hl hr (fun i ↦ numeric_rec H _ (hl i)) (fun i ↦ numeric_rec H _ (hr i))
 
-theorem Relabelling.numeric_imp {x y : PGame} (r : x ≡r y) (ox : Numeric x) : Numeric y := by
+theorem Identical.numeric_imp {x y : PGame.{u}} (r : x ≡ y) (ox : Numeric x) : Numeric y := by
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Basic.lean]: Same here.

File: CombinatorialGames/Surreal/Basic.lean [hunk 22]
```diff
@@ -93,16 +93,20 @@ theorem numeric_rec {C : PGame → Prop}
...
-  · exact IHr _ (r.moveRightSymm j) (ox.moveRight _)
+  · obtain ⟨l, hl⟩ := r.moveLeft_symm i
+    exact IHl _ hl (ox.moveLeft _)
+  · obtain ⟨r, hr⟩ := r.moveRight_symm j
+    exact IHr _ hr (ox.moveRight _)
 
-/-- Relabellings preserve being numeric. -/
-theorem Relabelling.numeric_congr {x y : PGame} (r : x ≡r y) : Numeric x ↔ Numeric y :=
+/-- Identity preserve being numeric. -/
+theorem Identical.numeric_congr {x y : PGame.{u}} (r : x ≡ y) : Numeric x ↔ Numeric y :=
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Basic.lean]: And here.

**Review by vihdzp — APPROVED** [review]
Otherwise LGTM!

File: CombinatorialGames/Surreal/Basic.lean [hunk 23]
```diff
@@ -93,16 +93,20 @@ theorem numeric_rec {C : PGame → Prop}
...
-  · exact IHl _ (r.moveLeftSymm i) (ox.moveLeft _)
-  · exact IHr _ (r.moveRightSymm j) (ox.moveRight _)
+  · obtain ⟨l, hl⟩ := r.moveLeft_symm i
+    exact IHl _ hl (ox.moveLeft _)
+  · obtain ⟨r, hr⟩ := r.moveRight_symm j
+    exact IHr _ hr (ox.moveRight _)
 
-/-- Relabellings preserve being numeric. -/
-theorem Relabelling.numeric_congr {x y : PGame} (r : x ≡r y) : Numeric x ↔ Numeric y :=
+/-- Identity preserve being numeric. -/
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Basic.lean]:
```suggestion
/-- Identities preserve being numeric. -/
```
